US07691867B2
Pyridine (0.18 ml, 1.5 mmol) was added to a suspension of 7-hydroxy-5-isopropoxyquinazolin-4(3H)-one (3.3 g, 15 mmol) in acetic anhydride (10 ml, 75 mmol) and the mixture was stirred at 75° C. for 45 minutes. The mixture was evaporated under reduced pressure and the residue obtained was stirred in water (50 ml) at 75° C. for 1 hour and then cooled to ambient temperature and filtered to afford 5-isopropoxy-4-oxo-3,4-dihydroquinazolin-7-yl acetate (2.6 g, 65% yield) as a white solid:

reactant | Pyridine | 1.5 mmol, 0.18 ml | N1=CC=CC=C1 | C5H5N
reactant | 7-hydroxy-5-isopropoxyquinazolin-4(3H)-one | 15 mmol, 3.3 g | OC1=CC(=C2C(NC=NC2=C1)=O)OC(C)C | C11H12N2O3
reactant | acetic anhydride | 75 mmol, 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 ml | O | H2O
product | 5-isopropoxy-4-oxo-3,4-dihydroquinazolin-7-yl acetate | 2.6 g, 65% yield | C(C)(=O)OC1=CC(=C2C(NC=NC2=C1)=O)OC(C)C | C13H14N2O4
